US05223506
Using the procedure of Example 1, 5,6-dimethoxyindan-1-one (192 mg, 1 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (255 mg, 1 mmol) to yields 7,8-dimethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (260 mg, 81% of theory).

reactant | 5,6-dimethoxyindan-1-one | 1 mmol, 192 mg | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 1 mmol, 255 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7,8-dimethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 260 mg, 81% | COC=1C(=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OC | C19H15NO4
